US09212182B2
A 100-mL pressure vessel was charged with (E)-ethyl 3-(2-amino-5-(benzylthio) phenyl)acrylate (3 g, 9.57 mmol), toluene (31.9 ml), cyclohexene oxide (2.91 ml, 28.7 mmol), and activated Al2O3 (24 g, 9.57 mmol) (dried at 150° C. for 16 h). The reaction vessel was sealed with a Teflon cap and the yellow reaction mixture was warmed to 80° C. After 16 h, additional cyclohexene oxide (2.91 ml, 28.7 mmol) and activated Al2O3(10 g, 3.98 mmol) was added and the reaction vessel was sealed with a Teflon cap and warmed to 80° C. After 48 h, the reaction mixture was allowed to cool to RT then filtered through a fritted funnel and the pad of Al2O3 was eluted with EtOAc (2×100 mL). The filtrate was concentrated under reduced pressure to furnish a yellow residue which was purified by flash column chromatography (100-g Biotage column, eluent: gradient, 0 to 50% EtOAc in heptane) to afford (±)-(E)-ethyl 3-(5-(benzylthio)-2-((2-hydroxycyclohexyl)amino) phenyl)acrylate (3.5 g, 8.50 mmol, 89% yield) as a yellow oil. 1H NMR (400 MHz, DMSO-d6) δ=7.84 (d, J=15.7 Hz, 1H), 7.37 (d, J=2.3 Hz, 1H), 7.31-7.18 (m, 6H), 7.14 (dd, J=2.2, 8.7 Hz, 1H), 6.65 (d, J=8.9 Hz, 1H), 6.27 (d, J=15.5 Hz, 1H), 5.48 (d, J=6.8 Hz, 1H), 4.75 (d, J=5.0 Hz, 1H), 4.03 (s, 1H), 3.52-3.39 (m, 1H), 3.20-3.11 (m, 1H), 3.07 (d, J=8.9 Hz, 1H), 1.90 (d, J=9.7 Hz, 1H), 1.80 (d, J=2.5 Hz, 1H), 1.70-1.50 (m, 2H), 1.21-1.05 (m, 2H). m/z (ESI) 412.0 (M+H)+.

reactant | (E)-ethyl 3-(2-amino-5-(benzylthio) phenyl)acrylate | 9.57 mmol, 3 g | NC1=C(C=C(C=C1)SCC1=CC=CC=C1)/C=C/C(=O)OCC | C18H19NO2S
reactant | cyclohexene oxide | 28.7 mmol, 2.91 ml | C12C(CCCC1)O2 | C6H10O
reactant | cyclohexene oxide | 28.7 mmol, 2.91 ml | C12C(CCCC1)O2 | C6H10O
solvent | toluene | 31.9 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-(E)-ethyl 3-(5-(benzylthio)-2-((2-hydroxycyclohexyl)amino) phenyl)acrylate | 8.50 mmol, 3.5 g, 89% yield | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1C(CCCC1)O | C24H29NO3S
